US07528173B2
A solution of 2-(4-(benzyloxycarbonylamino)phenyl)prop-2-enoic acid ethyl ester (2.2 g, 7.55 mmol) and thioacetic acid (5 mL) in 10 mL of chloroform was heated for 18 hours. The reaction mixture was evaporated in vacuo and purified by flash chromatography through silica gel (5/1 hexanes/ethyl acetate) to afford 2-(4-(benzyloxycarbonylamino)phenyl)-3-(acetylthio)propanoic acid ethyl ester, 0.22 g (8%) as an oil.

reactant | 2-(4-(benzyloxycarbonylamino)phenyl)prop-2-enoic acid ethyl ester | 7.55 mmol, 2.2 g | C(C)OC(C(=C)C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H19NO4
reactant | thioacetic acid | 5 mL | C(C)(=S)O | C2H4OS
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-(benzyloxycarbonylamino)phenyl)-3-(acetylthio)propanoic acid ethyl ester | C(C)OC(C(CSC(C)=O)C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C21H23NO5S
